US04559337
Preparation 1 3-oxaheptanoic acid
Sodium metal (16 g) was added to 92.5 ml of butanol and heated at reflux under nitrogen. After the sodium had reacted, chloroacetic acid (32.9 g) in 40 ml of butanol was added dropwise and then heated at reflux for twenty hours. The mixture, upon cooling to room temperature, was added to 1300 ml of water and extracted four times with 250-ml portions of diethyl ether. The aqueous phase was acidified to about pH 2 with aqueous hydrochloric acid and again extracted four times with 250-ml portions of diethyl ether. The organic extracts were combined and dried over sodium sulfate, filtered, and concentrated in vacuo. Distillation afforded the title compound as an oil. Structure assignment was supported by the proton nmr spectrum.

reactant | Sodium | 16 g | [Na] | Na
reactant | chloroacetic acid | 32.9 g | ClCC(=O)O | C2H3ClO2
reactant | water | 1300 ml | O | H2O
reactant | butanol | 40 ml | C(CCC)O | C4H10O
reactant | butanol | 92.5 ml | C(CCC)O | C4H10O
product | 3-oxaheptanoic acid | C(COCCCC)(=O)O | C6H12O3
